US05124335
A mixture of 1-(benzenesulfonyl)-2-propyl-1H-pyrrolo[2,3-b]pyridine (67 mg) and KOH (200 mg) in MeOH (30 mL) was heated to reflux for 3 h. The mixture was concentrated, neutralized by addition of 1N HCl, extracted (EtOAc) and purified (SiO2, 25% EtOAc/hexane) to give 2-propyl-1H-pyrrolo-[2,3-b]pyridine as a solid.

reactant | 1-(benzenesulfonyl)-2-propyl-1H-pyrrolo[2,3-b]pyridine | 67 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)CCC | C16H16N2O2S
reactant | KOH | 200 mg | [OH-].[K+]
solvent | MeOH | 30 mL | CO | CH4O
product | 2-propyl-1H-pyrrolo-[2,3-b]pyridine | C(CC)C1=CC=2C(=NC=CC2)N1 | C10H12N2
